US08497274B2
(iii) Production of N-[3-(4-amino-2-cyanophenoxy)phenyl]-3-(1-cyano-1-methylethyl)benzamide
A suspension of 3-(1-cyano-1-methylethyl)-N-[3-(2-cyano-4-nitrophenoxy)phenyl]benzamide (4.18 g, 9.80 mmol), calcium chloride (3.43 g, 29.4 mmol) and reduced iron (2.73 g, 49.0 mmol) in ethanol (70 mL)/water (7 mL) was stirred with heating at 80° C. for 16 hr. The reaction mixture was cooled to room temperature, and insoluble material was filtered off through a pad of celite and washed with ethanol. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate (200 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (200 mL×2) and saturated brine (200 mL×2), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (eluate: ethyl acetate), and the obtained solution was concentrated under reduced pressure to give the title compound (3.18 g, 82%) as a yellow oil.

reactant | 3-(1-cyano-1-methylethyl)-N-[3-(2-cyano-4-nitrophenoxy)phenyl]benzamide | 9.80 mmol, 4.18 g | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC2=C(C=C(C=C2)[N+](=O)[O-])C#N)C=CC1 | C24H18N4O4
reactant | calcium chloride | 29.4 mmol, 3.43 g | [Cl-].[Ca+2].[Cl-]
reactant | water | 7 mL | O | H2O
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | N-[3-(4-amino-2-cyanophenoxy)phenyl]-3-(1-cyano-1-methylethyl)benzamide | 3.18 g, 82% | NC1=CC(=C(OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)C=C1)C#N | C24H20N4O2
